US07358376B2
e) 2-Amino-5-(4-cyanophenyl)-3-thiophenecarboxamide
2-Acetylamino-3-cyano-5-(4-cyanophenyl)thiophene (470 mg) was heated at reflux in ethanol (15 ml) and concentrated sulphuric acid (1.5 ml) for 2.5 h. The reaction mixture was cooled and concentrated under reduced pressure. The residue was basified with 2N sodium hydroxide, with cooling, and the product was filtered off and dried (360 mg).

reactant | 2-Acetylamino-3-cyano-5-(4-cyanophenyl)thiophene | 470 mg | C(C)(=O)NC=1SC(=CC1C#N)C1=CC=C(C=C1)C#N | C14H9N3OS
reactant | sulphuric acid | 1.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-Amino-5-(4-cyanophenyl)-3-thiophenecarboxamide | NC=1SC(=CC1C(=O)N)C1=CC=C(C=C1)C#N | C12H9N3OS
